US08541448B2
To a solution of N1-(3-aminopropyl)-N1-methylpropane-1,3-diamine (560 mg, 3.85 mmol) dissolved in DCM (20 mL), was added triethylamine (300 mg, 2.96 mmol) and 3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzene-1-sulfonyl chloride (300 mg, 0.77 mmol). The resulting solution was stirred for 3 h at room temperature. After removing the solvent, the resulting residue was diluted with EtOAc (50 mL), washed with water (2×10 mL) and dried over anhydrous sodium sulfate. The crude product was purified by Flash-Prep-HPLC with H2O:MeOH (1:4) to afford 300 mg (74%) of N-(3-((3-aminopropyl)(methyl)amino)propyl)-3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenesulfonamide as a yellow oil.

reactant | N1-(3-aminopropyl)-N1-methylpropane-1,3-diamine | 3.85 mmol, 560 mg | NCCCN(CCCN)C | C7H19N3
reactant | triethylamine | 2.96 mmol, 300 mg | C(C)N(CC)CC | C6H15N
reactant | 3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzene-1-sulfonyl chloride | 0.77 mmol, 300 mg | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C=1C=C(C=CC1)S(=O)(=O)Cl | C16H14Cl3NO2S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(3-((3-aminopropyl)(methyl)amino)propyl)-3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenesulfonamide | 300 mg, 74% | NCCCN(CCCNS(=O)(=O)C1=CC(=CC=C1)C1CN(CC2=C(C=C(C=C12)Cl)Cl)C)C | C23H32Cl2N4O2S
